US07960395B2
e) (2R,2′R)-2,2′-{Dithiobis[(2-chloro[1,3]thiazolo[4,5-d]pyrimidine-5,7-diyl)(methylimino)]}dipentan-1-ol
(2R)-2-[(2-Amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)(methyl)amino]pentan-1-ol (1.0 g, 3.34 mmol) was dissolved in acetonitrile (25 ml) and concentrated hydrochloric acid (40 mL). Sodium nitrite (461 mg, 6.67 mmol) was dissolved in water (2 mL) and added at 0° C. The reaction mixture was kept at 0° C. for three days. The reaction mixture was poured onto ice and the precipitated product was collected by filtration and washed with water. Drying in vacuo gave the title compound 800 mg (75% yield).

reactant | (2R)-2-[(2-Amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)(methyl)amino]pentan-1-ol | 3.34 mmol, 1.0 g | NC=1SC2=C(N=C(N=C2N([C@@H](CO)CCC)C)S)N1 | C11H17N5OS2
reactant | hydrochloric acid | 40 mL | Cl | ClH
reactant | Sodium nitrite | 6.67 mmol, 461 mg | N(=O)[O-].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
product | (2R,2′R)-2,2′-{Dithiobis[(2-chloro[1,3]thiazolo[4,5-d]pyrimidine-5,7-diyl)(methylimino)]}dipentan-1-ol | 800 mg, 75% yield | ClC=1SC2=C(N=C(N=C2N(C)[C@@H](CO)CCC)SSC=2N=C(C3=C(N2)N=C(S3)Cl)N(C)[C@@H](CO)CCC)N1 | C22H28Cl2N8O2S4
